US04190650
At 10° C., a solution of 14 g (0.104 mole) of sulfuryl chloride in 50 ml of carbon tetrachloride is dripped into a solution of 22.2 g (0.1 mole) of α-formylethanephosphonic acid diisopropyl ester in 150 ml of carbon tetrachloride. The reaction mixture is stirred for 3 hours at room temperature and the solvent is then distilled off under reduced pressure. The residue is taken up in ether, washed with 5% sodium bicarbonate solution and then with saturated sodium chloride solution, and dried over sodium sulfate. The ether is stripped off under reduced pressure. There is obtained 24 g (93.5% of theory) of α-formyl-α-chloroethanephosphonic acid diisopropyl ester.

reactant | sulfuryl chloride | 0.104 mole, 14 g | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | α-formylethanephosphonic acid diisopropyl ester | 0.1 mole, 22.2 g | C(C)(C)OP(OC(C)C)(=O)C(C)C=O | C9H19O4P
solvent | carbon tetrachloride | 50 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | carbon tetrachloride | 150 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | α-formyl-α-chloroethanephosphonic acid diisopropyl ester | 24 g, 93.5% | C(C)(C)OP(OC(C)C)(=O)C(C)(Cl)C=O | C9H18ClO4P
